US04927819
To a solution of 2-methoxy-5-p-toluenesulphonyloxymethyldibenzo[a,d]cycloheptene (13.5 g) in glacial acetic acid (100 ml) was added anhydrous sodium acetate (5.6 g). The reaction mixture was heated under reflux for 15h then the solvent was removed under vacuum to leave a residue which was partitioned between dichloromethane (3×120 ml) and water (120 ml). The combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo to leave a residue which was dissolved in 75% aqueous methanol (100 ml) and treated with potassium hydroxide at 0° C. until the pH was approximately 12. After 3h the reaction mixture was concentrated in vacuo and the presidue partitioned between water (100 ml) and diethyl ether (3100 ml). The combined organic layers were dried (Na2SO4). filtered and concentrated in vacuo. Chromatography of the residue on flash silica with 10% ethyl acetate in hexane as eluent initially gave the less polar isomer, 2-methoxy-6-hydroxy-dibenzo [c,e]cyclooctene (1.6 g), m.p. 97°-99° C. δ (360 MHz, CDCl3) 3.25 (1H. dd, J=13.8 and 10.0 Hz, CHAHB --CHCOH), 3.39 (1H, dd, J=13.8 and 6.2 Hz, CHAHBCHCOH), 3.72 (3H, s, OCH3), 5.23 (1H, dd, J=10.0 and 6.2 Hz, CHAHB --CHC --OH), 6.61 (1H, d, J=2.7 Hz, CH=C(OCH3)--CH=CH), 6.70 (1H, dd, J=8.4 and 2.7 Hz, CH=C(OCH3)--CH=CH), 6.77 (1H, d, J=11.9, ArCH=CH--Ar), 6.87 (1 H, d, J=11.9 Hz, Ar--CH=CH--Ar), 7.09-7.21 (3H, m aromatics), 7.16 (1H, dd, J=8.5 and 2.7 Hz, CH=C(OCH3)--CH=CH) and 7.44 (1H, dd, J=8.6 and 2.7 Hz, CH=C--CH2OH). Irradiation of HB (δ3.39) gave a n.o.e to the proton at δ7.16 which is on the same ring as the methoxy group and irradiation of HC (δ5.23) gave a n.o.e to the proton at δ7.45 which is on the other aromatic ring. m/e 252 (M+). i.r. (νmax nujol mull) 3400-3100 cm-1 (br, OH). Found: C, 78.8; H, 6.5. C17H16O2.0.35 H2O requires: C, 78.9; H, 6.5%. The more polar product next obtained, as an oil, was 2-methoxy-5-hydroxymethyldibenzo[a,d]cycloheptene (5.2 g, 62%). 2-Methoxy-5-hydroxydibenzo[a,e]cyclooctene was not isolated.

reactant | 2-methoxy-5-p-toluenesulphonyloxymethyldibenzo[a,d]cycloheptene | 13.5 g | COC1=CC2=C(C(C3=C(C=C2)C=CC=C3)COS(=O)(=O)C3=CC=C(C=C3)C)C=C1 | C24H22O4S
reactant | sodium acetate | 5.6 g | C(C)(=O)[O-].[Na+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
product | 2-methoxy-6-hydroxy-dibenzo [c,e]cyclooctene | 1.6 g | COC1=CC2=C(C=C(C=CC3=C2C=CC=C3)O)C=C1 | C17H14O2
